US08735412B2
(RS)-S-(4-{[4-{[(1R,2R)-2-(Benzyloxy)-1-methylpropyl]oxy}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-S-methyl-N-(trifluoroacetyl)sulfoximide
0.97 ml of 4N solution of hydrogen chloride in dioxane was added to 1.40 g (3.88 mmol) of 4-((1R,2R)-2-benzyloxy-1-methyl-propoxy)-2-chloro-5-trifluoromethyl-pyrimidine and 1.20 g (4.51 mmol) (RS)-S-(4-aminophenyl)-S-methyl-N-(trifluoroacetyl)sulfoximide in 19.0 ml acetonitrile and was then stirred for 6 hours at 80° C. After cooling, the mixture was diluted with ethyl acetate and washed with saturated sodium hydrogencarbonate solution and saturated sodium chloride solution, dried (Na2SO4), filtered and concentrated by evaporation. The residue is obtained was purified chromatographically (hexane/ethyl acetate 1:1). 1.76 g (2.98 mmol, yield: 77%) of the product was obtained.

reactant | hydrogen chloride | Cl | ClH
reactant | 4-((1R,2R)-2-benzyloxy-1-methyl-propoxy)-2-chloro-5-trifluoromethyl-pyrimidine | 3.88 mmol, 1.40 g | C(C1=CC=CC=C1)O[C@@H]([C@H](OC1=NC(=NC=C1C(F)(F)F)Cl)C)C | C16H16ClF3N2O2
reactant | (RS)-S-(4-aminophenyl)-S-methyl-N-(trifluoroacetyl)sulfoximide | 4.51 mmol, 1.20 g | NC1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C | C9H9F3N2O2S
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 19.0 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-S-(4-{[4-{[(1R,2R)-2-(Benzyloxy)-1-methylpropyl]oxy}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-S-methyl-N-(trifluoroacetyl)sulfoximide | 2.98 mmol, 1.76 g, yield: 77% | C(C1=CC=CC=C1)O[C@@H]([C@@H](C)OC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C)C | C25H24F6N4O4S
